US08871187B2
1 ml (5.5 mmol) of methyl diethylphosphonoacetate are added to a suspension of 220 mg (5.5 mmol) of sodium hydride at 60% in 5 ml of tetrahydrofuran cooled to 0° C. After stirring for 1 h, 500 mg (4.5 mmol) of 1-methyl-1H-imidazole-4-carbaldehyde are added and the mixture is stirred for 4 hours at ambient temperature and then hydrolysed with water and extracted with ethyl acetate. The organic phase is washed with a saturated aqueous solution of sodium hydrogen carbonate, dried over magnesium sulphate, filtered and evaporated. The product obtained is precipitated from heptane and filtered. 430 mg of methyl (E)-3-(1-methyl-1H-imidazol-4-yl)acrylate are obtained in the form of a yellow powder with a yield of 57%.

reactant | methyl diethylphosphonoacetate | 5.5 mmol, 1 ml | C(C)OP(=O)(OCC)CC(=O)OC | C7H15O5P
reactant | sodium hydride | 5.5 mmol, 220 mg | [H-].[Na+]
reactant | 1-methyl-1H-imidazole-4-carbaldehyde | 4.5 mmol, 500 mg | CN1C=NC(=C1)C=O | C5H6N2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | methyl (E)-3-(1-methyl-1H-imidazol-4-yl)acrylate | 430 mg, yield of 57% | CN1C=NC(=C1)/C=C/C(=O)OC | C8H10N2O2
